US08138189B2
Step 1: 1-(4-Amino-2-chloro-phenyl)-ethanone
Iron (2.7 g) and ammonium chloride (2.6 g) were added to a solution of 2′-chloro-4′-nitroacetophenone (CAS Reg. No. 67818-41-1, 960 mg) in ethanol (68 ml) and water (8.1 ml). The mixture was heated for 1 h under reflux. DCM (35 ml) was added and stirred for 2 min. The mixture was filtered over Celite. Water (100 ml) was added and extracted with DCM (200 ml, and 2×150 ml). The combined organic layers were dried over Na2SO4 and concentrated to give the title compound (837 mg) as light yellow oil. MS (m/e)=170.1 [M+H+].

reactant | ammonium chloride | 2.6 g | [Cl-].[NH4+]
reactant | 2′-chloro-4′-nitroacetophenone | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | DCM | 35 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 68 ml | C(C)O | C2H6O
solvent | water | 8.1 ml | O | H2O
catalyst | Iron | 2.7 g | [Fe] | Fe
product | 1-(4-Amino-2-chloro-phenyl)-ethanone | 837 mg | NC1=CC(=C(C=C1)C(C)=O)Cl | C8H8ClNO
